US05594081
(3) Synthesis of 3-(2-bromophenyl)propionic acid
To a solution of methyl 3-(2-bromophenyl)propionate (35.77 g) in ethanol (80.7 ml) was added at room temperature dropwise a solution of sodium hydroxide (11.77 g) in water (40 ml). After the reaction mixture was stirred under reflux for 2.5 hrs. and left standing for cooling, methanol was removed by distillation under reduced pressure, the residue was poured into ice-hydrochloric acid and stirred for 20 minutes. Crystalline precipitates were filtered, washed well with water, dried under reduced pressure to give the title compound (32.4 g).

reactant | methyl 3-(2-bromophenyl)propionate | 35.77 g | BrC1=C(C=CC=C1)CCC(=O)OC | C10H11BrO2
reactant | sodium hydroxide | 11.77 g | [OH-].[Na+]
solvent | ethanol | 80.7 ml | C(C)O | C2H6O
solvent | water | 40 ml | O | H2O
product | 3-(2-bromophenyl)propionic acid | 32.4 g | BrC1=C(C=CC=C1)CCC(=O)O | C9H9BrO2
